US08022062B2
Dissolve (±)-7-chloro-6-[1-(2-cyanophenyl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine succinate (326 mg, 1.0 mmol) in DCM (5 mL) and pyridine (0.4 mL, 5 mmol). Add di-tert-butyl-dicarbonate (270 mg, 1.2 mmol) and stir the mixture for 16 h at ambient temperature. Wash the mixture with 5N aqueous NaOH and saturated aqueous NaHCO3 successively. Collect the organic layer and concentrate in vacuo. Purify the residue by chromatography on silica gel eluting with hexane/EtOAc (1:1) to obtain (±)-3-tert-butoxycarbonyl-7-chloro-6-[1-(2-cyanophenyl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (393 mg, 93%). Separate the enantiomers of (±) 3-tert-butoxycarbonyl-7-chloro-6-[1-(2-cyanophenyl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine by chiral normal phase chromatography (Chiralpak AD 8×30 cm column, eluting with heptane/isopropylamine, 95:5).

reactant | (±)-7-chloro-6-[1-(2-cyanophenyl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine succinate | 1.0 mmol, 326 mg | C(CCC(=O)O)(=O)O.ClC1=C(C2=C(CCNCC2)C=C1)SC(C)C1=C(C=CC=C1)C#N
reactant | pyridine | 5 mmol, 0.4 mL | N1=CC=CC=C1 | C5H5N
reactant | di-tert-butyl-dicarbonate | 1.2 mmol, 270 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-3-tert-butoxycarbonyl-7-chloro-6-[1-(2-cyanophenyl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 393 mg, 93% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(C)C2=C(C=CC=C2)C#N | C24H27ClN2O2S
